US07491713B2
N-[(3R,6S)-6-(2,3-difluorophenyl)-1-(2-methoxyethyl)-2-oxoazepan-3-yl]-4-(2-oxo-4-phenylimidazolidin-1-yl)piperidine-1-carboxamide
Triethylamine (0.012 mL, 0.084 mmol) was added to a solution (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(2-methoxyethyl)azepan-2-one (25 mg, 0.084 mmol) and p-nitrophenyl chloroformate (25 mg, 0.126 mmol) in tetrahydrofuran (1 mL) at 0° C. After 0.5 h, triethylamine (0.036 mL, 0.252 mmol) and 4-phenyl-1-piperidin-4-yl-imidazolidin-2-one (31 mg, 0.126 mmol) were added and the mixture was allowed to warm to ambient temperature. After 1 h, the mixture was quenched with water, extracted with dichloromethane, and washed with 1 N NaOH solution. The combined organic layer was dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (0.5% methanol/dichloromethane→6% methanol/dichloromethane) gave the title compound (11 mg). MS 570.3 (M+1).

reactant | Triethylamine | 0.084 mmol, 0.012 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(2-methoxyethyl)azepan-2-one | 0.084 mmol, 25 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CCOC)=O | C15H20F2N2O2
reactant | p-nitrophenyl chloroformate | 0.126 mmol, 25 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | triethylamine | 0.252 mmol, 0.036 mL | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-1-piperidin-4-yl-imidazolidin-2-one | 0.126 mmol, 31 mg | C1(=CC=CC=C1)C1NC(N(C1)C1CCNCC1)=O | C14H19N3O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N-[(3R,6S)-6-(2,3-difluorophenyl)-1-(2-methoxyethyl)-2-oxoazepan-3-yl]-4-(2-oxo-4-phenylimidazolidin-1-yl)piperidine-1-carboxamide | 11 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCOC)=O)NC(=O)N1CCC(CC1)N1C(NC(C1)C1=CC=CC=C1)=O | C30H37F2N5O4
